***  For BSIM3V3  general purpose check (Id-Vg) for Nmosfet***
******************************************

*** circuit description ***
m1 2 1  0 3 n1 L=0.35u W=10.0u
vgs 1 0 3.5 
vbs 3 0 0 
vds 2 0 0.1

.dc vgs 0 3.5 0.05 vbs 0.0 -3. -0.5

.options Temp=100.0
.print dc v(2) i(vds)
.include modelcard.nmos 
.end





